US04889857
A solution of 500 mg of 1-ethyl-6,8-difluoro-7-[2-(formylaminomethyl)morpholino]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 1 ml of concentrated hydrochloric acid, 2 ml of water and 10 ml of methanol is refluxed for 1.5 hours. The reaction mixture is concentrated under reduced pressure. The obtained crystals are washed with acetone, collected by filtration and recrystallized from dimethylformamide to give 7-[2-(aminomethyl)morpholino]-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride, melting at 276°-278° C. with decomposition.

reactant | 1-ethyl-6,8-difluoro-7-[2-(formylaminomethyl)morpholino]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 500 mg | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(OCC1)CNC=O)F)=O)C(=O)O | C18H19F2N3O5
reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | water | 2 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 7-[2-(aminomethyl)morpholino]-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride | Cl.NCC1OCCN(C1)C1=C(C=C2C(C(=CN(C2=C1F)CC)C(=O)O)=O)F | InChI=1S/C17H19F2N3O4.ClH/c1-2-21-8-11(17(24)25)16(23)10-5-12(18)15(13(19)14(10)21)22-3-4-26-9(6-20)7-22;/h5,8-9H,2-4,6-7,20H2,1H3,(H,24,25);1H
